US07947738B2
(16-g) Tert-butyl(±)-[(1S,5R,6S)-6-(tert-butoxycarbonylaminomethyl)-5-methylbicyclo[3.2.0]hept-3-en-6-yl]acetate
Sodium borohydride (134 mg, 3.54 mmol) was added in small portions to a methanol (5 mL) solution of tert-butyl(±)-[(1S,5R,6S)-6-cyano-5-methyl-bicyclo[3.2.0]hept-3-en-6-yl]acetate (125 mg, 0.51 mmol), nickel (II) chloride hexahydrate (12 mg, 0.05 mmol), and (Boc)2O (221 mg, 1.01 mmol) with stirring at room temperature, and the mixture was then stirred at room temperature for 2 hours. The reaction solution was diluted with ethyl acetate and saturated aqueous sodium bicarbonate and filtered to remove insoluble matter. Then, the organic layer was washed with saturated saline and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography to obtain the compound of interest as a colorless oil substance (123 mg).

reactant | Sodium borohydride | 3.54 mmol, 134 mg | [BH4-].[Na+]
reactant | methanol | 5 mL | CO | CH4O
reactant | tert-butyl(±)-[(1S,5R,6S)-6-cyano-5-methyl-bicyclo[3.2.0]hept-3-en-6-yl]acetate | 0.51 mmol, 125 mg | C(#N)[C@]1([C@]2(C=CC[C@H]2C1)C)CC(=O)OC(C)(C)C | C15H21NO2
reactant | (Boc)2O | 1.01 mmol, 221 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | nickel (II) chloride hexahydrate | 0.05 mmol, 12 mg | O.O.O.O.O.O.[Ni](Cl)Cl
product | Tert-butyl(±)-[(1S,5R,6S)-6-(tert-butoxycarbonylaminomethyl)-5-methylbicyclo[3.2.0]hept-3-en-6-yl]acetate | C(C)(C)(C)OC(=O)NC[C@]1([C@]2(C=CC[C@H]2C1)C)CC(=O)OC(C)(C)C | C20H33NO4
